US08703742B2
6-Fluoro-2,3-dimethoxy-benzaldehyde
To a cold (−78° C.) solution of 4-fluoro-1,2-dimethoxybenzene (15.00 g, 96.05 mmol) in anhydrous THF (150 mL) was added n-BuLi (84.5 mL, 211.32 mmol, 2.5 M solution in hexanes) under nitrogen and stirred it for 3 h at −78° C. Quenched the reaction with DMF (75 mL) at −65° C., added 2N HCl (300 mL) dropwise and further stirred for 30 min. Two layers separation was observed. Aqueous layer was extracted with EtOAc. Combined organic layers were washed with water, brine and dried over MgSO4. Filtered the ethyl acetate layer and concentrated it in vacuo. The title compound was purified by flash column chromatography using pure hexanes then 10 and 20% EtOAc in hexanes which provided 14.40 g (78.19 mmol, 82%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.23 (s, 1H), 7.36 (dd, J=9.0, 5.1 Hz, 1H), 7.03 (t, J=9.6 Hz, 1H), 3.87 (s, 3H), 3.83 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ ppm −131.68-−131.66 (m, 1F).

reactant | 4-fluoro-1,2-dimethoxybenzene | 96.05 mmol, 15.00 g | FC1=CC(=C(C=C1)OC)OC | C8H9FO2
reactant | n-BuLi | 211.32 mmol, 2.5 M, 84.5 mL | [Li]CCCC
reactant | HCl | 2N, 300 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-2,3-dimethoxy-benzaldehyde | 78.19 mmol, 14.40 g, 82% | FC1=CC=C(C(=C1C=O)OC)OC | C9H9FO3
